US05411935
In 500 ml of chloroform, 50 g of 1-[4-chloro-6-fluoro-3-hydroxy-2-(2 -methyl-2-propenyl)phenyl]-3-methyl-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidine-2,6-dione was dissolved, to which 30.0 g of m-chloroperbenzoic acid was added, and the reaction was effected at 60° C. for 4.5 :hours. After completion of the reaction, the reaction mixture was cooled to room temperature and subjected to fractionation with a separatory funnel using chloroform and an aqueous solution of sodium sulfite. The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate and then water, dried and concentrated. The residue was subjected to recrystallization, which afforded 46 g of 1-[4-chloro-6-fluoro-3-hydroxy-2-(2,3-epoxy-2-methylpropyl)phenyl]-3-methyl-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidine-2,6-dione.

reactant | 1-[4-chloro-6-fluoro-3-hydroxy-2-(2 -methyl-2-propenyl)phenyl]-3-methyl-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidine-2,6-dione | 50 g | ClC1=C(C(=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)CC(=C)C)O | C16H13ClF4N2O3
reactant | m-chloroperbenzoic acid | 30.0 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-[4-chloro-6-fluoro-3-hydroxy-2-(2,3-epoxy-2-methylpropyl)phenyl]-3-methyl-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidine-2,6-dione | 46 g | ClC1=C(C(=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)CC1(CO1)C)O | C16H13ClF4N2O4
